US08629160B2
Preparation of methyl 3-(2-oxo-1-phenyl-2-((R)-quinuclidin-3-yloxy)ethylamino)thiophene-2-carboxylate (Diastereomer 1 and 2 of C11)
A mixture of 2-(2-(methoxycarbonyl)thiophen-3-ylamino)-2-phenylacetic acid (I10) (404 mg, 1.39 mmol), (R)-quinuclidin-3-ol (529 mg, 4.17 mmol), DCC (859 mg, 4.17 mmol) and HOBT (567 mg, 4.17 mmol) in dry THF (25 ml) was stirred at room temperature overnight. THF was evaporated, and the crude product was taken up with EtOAc and washed twice with 2M K2CO3. The organic phase was dried over Na2SO4, filtered and evaporated to dryness. The crude was purified by flash chromatography (DCM/MeOH=98/2 to 95/5) recovering diastereomer 1 of C11 (161 mg; 28% yield), and subsequently diastereomer 2 of C11 (127 g, 35% yield).

reactant | 2-(2-(methoxycarbonyl)thiophen-3-ylamino)-2-phenylacetic acid | 1.39 mmol, 404 mg | COC(=O)C=1SC=CC1NC(C(=O)O)C1=CC=CC=C1 | C14H13NO4S
reactant | (R)-quinuclidin-3-ol | 4.17 mmol, 529 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
reactant | DCC | 4.17 mmol, 859 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBT | 4.17 mmol, 567 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | methyl 3-(2-oxo-1-phenyl-2-((R)-quinuclidin-3-yloxy)ethylamino)thiophene-2-carboxylate | 28% yield | O=C(C(C1=CC=CC=C1)NC1=C(SC=C1)C(=O)OC)O[C@H]1CN2CCC1CC2 | C21H24N2O4S
